Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
6 months of worsening arm weakness/pain/numbness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ year old man with no significant past medical
history other than asthma who presented to neurology clinic
yesterday afternoon with 6 months of bilateral arm pain and
weakness found to have T2 hyperintense lesion in the cervical
spine on MRI.

Mr. ___ states that his symptoms started in ___ with a
gradual-onset, sunburn-like feeling in left upper chest centered
on the pectoral muscle. He notes a circular distribution to this
sensation. There was no antecedent viral infection, GI illness,
tick bite, or other possible provocation.

In ___, the burning sensation started to spread outwards in
a radial fashion, now beginning to involve the left shoulder and
the left arm. Despite his symptoms, however, he could still work
(___, ___). 

By ___, he noted weakness in his left arm such that it was 
hard
for him to carry groceries up the stairs. Everything felt
"heavier than it should." This forced him to stop working.  At
times, he states that seems to have gotten a bit better but then
the symptoms would then accelerate again. The sensory symptoms
evolved over this time into a "pressure-like" pain on his
shoulder and neck as well as intense pruritus in the same
distribution. His symptoms gradually progressed to involve his
right arm. 

In late ___, he notes that he developed bad sleeping problems
due to a sore neck, which is notably worse at night. He often
wakes up with slight discomfort and a numb sensation in his 
arms.
This causes him to be concerned and have difficulty falling back
to sleep. 

In ___, he started seeing chiropractor since his neck became so
stiff that he could not turn his head without turning his body.
He has since regained some movement in his neck since seeing the
chiropractor and is now able to turn his neck to both sides.
He continues to have difficulty sleeping and can now only get a
couple of hours sleep at a time. 

In addition to the above, he notes that his hands often feel
"swollen and sensitive." He has "itch attacks" multiple times
throughout the day during which he feels the need to 
aggressively
rub his hands against his jeans in order to prevent them from
"freezing up." This has become so severe that he now has 
calluses
on the dorsal surface of both hands.

On neurological ROS, the patient endorses a soreness at the beck
of his head though this is not a true headache per se. No loss 
of
vision, blurred vision, diplopia, dysarthria. Endorses throat
sensitivity such that carbonated beverages will make his throat
tickle more than usual but there is no dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty though
he feels that there is an itch in his left ear he cannot 
satisfy.
Denies difficulties producing or comprehending speech. No bowel
or bladder incontinence or retention. Endorses difficulty with
gait, particularly going down stairs as opposed to up stairs.

On general review of systems, the patient denies recent fevers.
Endorses heat insensitivity - had friends over his apartment and
felt cool despite the heat being on. Notes that he is generally 
a
"warm ___ Has had chills at times though he states this has
been getting better. Gets a little sweaty with an "itch attack"
but no night sweats. Endorses 27 pound weight loss since the
start of his symptoms. Denies cough, shortness of breath though
notes occasional "gasps for air" when sleeping on his back.
Denies chest pain or tightness, palpitations.  Denies nausea,
vomiting, diarrhea, constipation or abdominal pain but endorses
poor appetite. No recent change in bowel or bladder habits. No
dysuria. Endorses bilateral shoulder arthralgias and myalgias in
the neck. Denies rash.
 
Past Medical History:
Exercise-induced asthma                                 
Born 2 months premature
 
Social History:
___
Family History:
Paternal grandfather died of stomach cancer. Mother is healthy.
Father has been "mentally slipping for years" with paranoia,
perhaps a "little schizophrenia." 
 
Physical Exam:
___ ___ Temp: 98.1 PO BP: 138/82 HR: 73 RR: 18 O2 sat: 97%
O2 delivery: Ra 

General: Awake, mildly anxious but pleasant and cooperative,
constantly scratching his neck and left ear
HEENT: NCAT, MMM
Neck: Supple, no nuchal rigidity, can look up and down,
side-to-side without significantly increased pain
Pulmonary: no increased WOB
Cardiac: Warm and well perfused
Abdomen: soft, NT/ND
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: Improving indurated, scaly lesions over the dorsal 
surfaces
of both hands at the PIPs which patient attributed to intense
scratching/hand rubbing. No other rashes noted

Neurologic:
Mental Status: awake, oriented x3, alert. Language fluent 
without
errors. Attentive to examiner. No dysphagia. 

CN: EOMI, PERRLA. Face symmetric at rest and with activation.
Hearing intact to conversation. SCM and trapezius elevation
intact bilaterally. Tongue protrudes mildline.

Motor: Marked atrophy of the FDI bilaterally. Increased tone in
the legs. No pronator drift bilaterally. No adventitious
movements, such as tremor, noted. Neck flexors and extensors are
both ___.
  Delt Bic Tri WrE FFl  FE  IO  IP  Quad  Ham TA  Gastroc 
L  5-  5-  5-  4+  5-   4+  4+  5    5    5   5     5     
R  5-  5-  4+  4+  5    5-  4+  5    5    5   5     5     

Sensory: 
- There is decreased pinprick sensation (70% of normal)
and cold sensation over posterior aspect of bilateral
arm. No deficits in BLE. 

-DTRs: 
  Bi Tri ___ Pat Ach
L  3  3    3    3   3
R  3  3    3    3   3
+ suprapatellar and crossing adductors bilaterally
inconsistently observed bilateral pec jerk, no jaw jerk
bilateral ___, 3 beats clonus
Plantar response was mute bilaterally.

-Coordination: No dysmetria on FNF bilaterally.
 
Pertinent Results:
___ 11:57PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 07:11PM BLOOD WBC-10.1* RBC-5.27 Hgb-16.0 Hct-45.4 
MCV-86 MCH-30.4 MCHC-35.2 RDW-12.0 RDWSD-37.8 Plt ___
___ 07:11PM BLOOD Neuts-70.9 ___ Monos-8.2 Eos-0.9* 
Baso-0.4 Im ___ AbsNeut-7.18* AbsLymp-1.94 AbsMono-0.83* 
AbsEos-0.09 AbsBaso-0.04
___ 07:11PM BLOOD ___ PTT-32.1 ___
___ 07:11PM BLOOD Glucose-104* UreaN-10 Creat-1.0 Na-139 
K-4.0 Cl-105 HCO3-23 AnGap-11
___ 07:11PM BLOOD ALT-18 AST-12 AlkPhos-58 TotBili-0.5
___ 07:11PM BLOOD Lipase-23
___ 07:11PM BLOOD Albumin-4.7 Calcium-9.8 Phos-2.9 Mg-2.1
___ 04:45AM BLOOD VitB12-524 Folate->20
___ 04:45AM BLOOD TSH-3.1
___ 04:45AM BLOOD 25VitD-11*
___ 04:45AM BLOOD ANCA-NEGATIVE B
___ 04:45AM BLOOD RheuFac-<10 ___ CRP-4.5
___ 04:45AM BLOOD Trep Ab-NEG
___ 04:45AM BLOOD HIV Ab-NEG
___ 07:11PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:04AM BLOOD ZINC (SPIN NVY/EDTA)- 79    
___ 04:45AM BLOOD HVY MTL (WHLE BLD NVY/EDTA)- negative     
 
___ 04:45AM BLOOD COPPER (SPIN NVY/NO ADD)- 84     
___ 04:45AM BLOOD SED RATE- 2      
___ 04:45AM BLOOD VITAMIN E (ALPHA-TOCOPHEROL 11.9, 
BETA-GAMMA-TOCOPHEROL 1.8)
___ 04:45AM BLOOD RO & LA- negative  
___ 04:45AM BLOOD METHYLMALONIC ACID- ___      
___ 04:45AM BLOOD CERULOPLASMIN- 30      
___ 04:45AM BLOOD NEUROMYELITIS OPTICA 
(NMO)/AQUAPORIN-4-IGG CELL-BINDING ASSAY, SERUM- negative

___ CSF flow cytometry- unremarkable
___ 03:10PM CEREBROSPINAL FLUID (CSF) TNC-3 RBC-17* Polys-0 
___ ___ 03:10PM CEREBROSPINAL FLUID (CSF) TotProt-31 Glucose-60
___ 12:14PM CEREBROSPINAL FLUID (CSF) PARANEOPLASTIC 
AUTOANTIBODY EVALUATION, CSF- negative
___ 03:10PM CEREBROSPINAL FLUID (CSF) MS ___- negative
___ 03:10PM CEREBROSPINAL FLUID (CSF) VARICELLA DNA (PCR)- 
negative      
___ 03:10PM CEREBROSPINAL FLUID (CSF) HSV PCR- negative 
___ 03:10PM CEREBROSPINAL FLUID (CSF) CMV DNA QUAL PCR- 
negative        
___ 03:10PM CEREBROSPINAL FLUID (CSF) EBV DNA, PCR- 
negative   

___ 06:40AM BLOOD PARANEOPLASTIC AUTOANTIBODY EVALUATION- 
PND
___ 03:55PM BLOOD MYELIN OLIGODENDROCYTE GLYCOPROTEIN (MOG 
IGG)-PND

Imaging:
___ MRI C/T spine
IMPRESSION: 
1.  Long segment nonenhancing high signal intensity and 
expansion of the
cervical spine.  Broad differential diagnosis may include 
inflammatory
process, transverse myelitis, neoplasm, demyelination, 
paraneoplastic lesion, lymphoma, and less likely sarcoid since 
there is no evidence of abnormal enhancement.  No cord 
abnormalities in the thoracic and lumbar spine.
2.  At T7-T8, there is a left paramedian disc bulge indenting 
the anterior
thecal sac without significant spinal canal narrowing

___ MR head w/ & w/o contrast
IMPRESSION: 
1.  No evidence of acute intracranial process or hemorrhage.
2.  No evidence for demyelination.

___ CT A/P w/ contrast
IMPRESSION:
1. There are no findings on CT of the abdomen and pelvis 
concerning for
malignancy or an acute infectious/inflammatory process.
2. Reference is made to CT chest report of the same day for 
chest findings.

___ CT chest w/ contrast
IMPRESSION: 
No evidence of sarcoidosis, infection or malignancy in the chest

 
Brief Hospital Course:
Mr. ___ is an otherwise healthy ___ year old man who presented 
to neurology clinic with 6 months of bilateral arm pain and 
weakness, as well as 25 pound weight loss, found to have C2-C5 
lesion on MRI, referred to the hospital for expedited neurologic
evaluation. Repeat MRI w and w/o contrast confirmed the presence 
of the lesion. LP on ___ with opening pressure 7.5 cm, 3 nucs, 
31 protein, 60 glucose. 

Differential is still unclear, but has narrowed at this point. 
The most likely etiology is cancer, given the insidious 
progression and weight loss. The appearance of the lesion on 
imaging may be consistent with a low-grade (non-enhancing) 
glioma or ependymoma vs a CNS lymphoma given posterior neck pain 
(though less likely as cytology negative and WBC wnl). Dr. ___ 
has seen him and discussed with him. CT C/A/P w/ PO & IV 
contrast w/o overt malignancy. Per neuroradiology and 
neurosurgery an AVM or dural AVF is exceedingly unlikely. Almost 
certainly not autoimmune at this point given prolonged time 
course (6 months) and negative tests, though may be a 
seronegative NMO or MS.  ___ workup thus far with a 
negative ___, ANCA, Sjogrens, and RF, as well as a normal ESR. 
His infectious workup has returned negative so far, including 
negative HIV, HSV, and RPR. No cells in LP argues against this. 
His metabolic workup is thus far negative for B12, zinc, or 
Folate deficiencies. Negative copper and heavy metals, negative 
ceruloplasmin. Vitamin D was low at 11, but this does not 
explain his symptoms. TSH wnl. 

We has started him on gabapentin 400 mg three times daily for 
nerve pain, which significantly improved his pain and allowed 
for improved sleep and use of arms. We also started him on 
vitamins D and E because studies revealed that these were low.

We are in the process of scheduling him for follow up with 
neurology and neurooncology. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Gabapentin 400 mg PO TID 
RX *gabapentin 400 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*6 
2.  Vitamin D ___ UNIT PO 1X/WEEK (FR) 
RX *ergocalciferol (vitamin D2) [Drisdol] 50,000 unit 1 
capsule(s) by mouth Every ___ Disp #*4 Capsule Refills:*6 
3.  Vitamin E 400 UNIT PO DAILY 
RX *vitamin E 400 unit 1 capsule by mouth once a day Disp #*30 
Capsule Refills:*6 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical spine mass/lesion with concern for cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You presented to the hospital because of 6 months of arm pain 
and weakness.  We found on imaging of your cervical spine that 
you have a mass/lesion.  We have performed extensive laboratory 
studies, but none have revealed the possible cause of your 
mass/lesion.  We still have several studies that are pending 
that will result over the coming days to weeks.  We are 
concerned that this mass/lesion might be cancer, but have no way 
of proving this.  The mass/lesion is not safe to biopsy.  

We will have you follow up with neurology and neurooncology in 
clinic.  We will be contacting you in the coming days to 
schedule these appointments. 

We encourage you to present back to the ___ ED if you develop 
new concerning symptoms, including difficulty with breathing and 
new weakness or sensory changes.  

Thank you for allowing us to care for you, 
___ Neurology
 
Followup Instructions:
___